US09302989B2
N-{4-[(cyclopentylacetyl)amino]phenyl}-5-(hydroxymethyl)-1,3-dihydro-2H-isoindole-2-carboxamide
To a stirring suspension of 2-(4-(2-cyclopentylacetamido)phenylcarbamoyl)isoindoline-5-carboxylic acid (18 mg, 0.044 mmol) in tetrahydrofuran was added 1M borane in tetrahydrofuran (0.18 mL, 0.18 mml) dropwise. The mixture was heated at 60° C. for 1 hour. The reaction was cooled to room temperature and treated with several drops of 4M HCl-dioxane and methanol and then the clear solution was stirred at room temperature for 2 hours. The reaction was concentrated and purified by reverse-phase HPLC to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.26 (s, 1H), 7.45 (s, 4H), 7.28-7.32 (m, 2H), 7.22-7.26 (m, 1H), 5.18-5.22 (m, 1H), 4.72-4.73 (bs, 4H), 4.50-4.53 (bs, 2H), 2.17-2.32 (m, 3H), 1.70-1.80 (m, 2H), 1.44-1.67 (m, 4H), 1.13-1.24 (m, 2H); MS (ESI(+)) m/e 394 (M+H)+.

reactant | 2-(4-(2-cyclopentylacetamido)phenylcarbamoyl)isoindoline-5-carboxylic acid | 0.044 mmol, 18 mg | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C23H25N3O4
reactant | borane | 1M | B | BH3
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.18 mL | O1CCCC1 | C4H8O
catalyst | HCl dioxane | 4M, several drops | Cl.O1CCOCC1
product | N-{4-[(cyclopentylacetyl)amino]phenyl}-5-(hydroxymethyl)-1,3-dihydro-2H-isoindole-2-carboxamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)CO | C23H27N3O3
